US07429660B2
5-Bromo-2-nitro-9H-thioxanthene
To a cooled (0° C.) suspension of 5-bromo-2-nitro-thioxanthen-9-one (23.03 g, 68.5 mmol) in anhydrous tetrahydrofuran (100 ml) under nitrogen atmosphere, was added drop wise borane-THF complex (151 ml, 1.0M in THF). The mixture was allowed to warm to room temperature with stirring overnight. The reaction mixture was cooled (0° C.) and the excess borane was quenched with acetone. The solvent was evaporated in vacuo and the residue was triturated in saturated sodium bicarbonate (100 ml). The solid was filtered, washed with water and dried overnight in a vacuum dissicator to give the title compound (22.07 g, 100%). 1HNMR (300 MHz, CDCl3): δH=4.02 (2H, s), 7.17 (1H, m), 7.27 (1H, m), 7.51 (1H, m), 7.62 (1H, m), 8.09 (1H, m), 8.20 (1H, d).

reactant | 5-bromo-2-nitro-thioxanthen-9-one | 68.5 mmol, 23.03 g | BrC1=C2SC=3C=CC(=CC3C(C2=CC=C1)=O)[N+](=O)[O-] | C13H6BrNO3S
reactant | borane THF | 1.0M, 151 ml | B.C1CCOC1
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 5-Bromo-2-nitro-9H-thioxanthene | 22.07 g, 100% | BrC1=C2SC=3C=CC(=CC3CC2=CC=C1)[N+](=O)[O-] | C13H8BrNO2S
